US09422281B2
A 100 mL round bottom flask fitted with a nitrogen inlet, and stir bar was charged with (S)-1-(2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1(2H)-yl)ethanone (0.8 g, 2.53 mmol), 1,4-dioxane (30 ml), N,N-diisopropylethylamine (2.65 mL, 15.18 mmol) and furan-2-carbonyl chloride (0.991 g, 7.59 mmol). The reaction mixture was purged with nitrogen and heated to 50° C. for 2 h. The mixture was cooled to rt and diluted with ethyl acetate (100 mL). The mixture was then washed with brine (50 mL), and the organic layer was concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 9:1 hexanes-ethyl acetate) to afford (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1(2H)-yl)ethanone (0.69 g, 66% yield) as a colorless foam. MS (ESI, pos. ion) m/z 411 [M+1]+.

reactant | (S)-1-(2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1(2H)-yl)ethanone | 2.53 mmol, 0.8 g | C[C@@H]1N(C2=CC=C(C=C2NC1)B1OC(C(O1)(C)C)(C)C)C(C)=O | C17H25BN2O3
reactant | N,N-diisopropylethylamine | 15.18 mmol, 2.65 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | furan-2-carbonyl chloride | 7.59 mmol, 0.991 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(furan-2-carbonyl)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxalin-1(2H)-yl)ethanone | 0.69 g, 66% yield | O1C(=CC=C1)C(=O)N1C[C@@H](N(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(C)=O)C | C22H27BN2O5
